US07601716B2
1-(2,5-Difluorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine-7-carbonitrile
1-(2,5-Difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (394 mg) was reacted with CuCN as in General Procedure 6 to give the title compound as a brown solid (86% yield). M.p. 204-206° C., LCMS: m/z=287.07 (M+H+), 1H-NMR (DMSO-d6, 400 MHz) δ 3.23-3.37 (m, 2H), 3.44-3.50 (m, 2H), 4.49 (s, 2H), 6.82 (s, 1H), 7.09-7.22 (m, 2H), 7.25-7.33 (m, 1H), 7.62 (bs, 1H), 7.73 (d, J=1.8 Hz, 1H).

reactant | 1-(2,5-Difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 394 mg | FC1=C(CN2C3=C(NCC2)N=CC(=C3)I)C=C(C=C1)F | C14H12F2IN3
reactant | CuCN | C(#N)[Cu]
product | 1-(2,5-Difluorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine-7-carbonitrile | 86% yield | FC1=C(CN2C3=C(NCC2)N=CC(=C3)C#N)C=C(C=C1)F | C15H12F2N4
